US07173027B2
1-(N-Methyl-2-piperidinyl)methyl-3-(3-quinolinecarbonyl)-1H-indole
To the suspension of 200 mg (1.5 mmol) of anhydrous AlCl3 in 8 ml absolute methylene chloride was added 287.4 mg (1.5 mmol) 3-quinolinecarbonyl chloride in 5 ml methylene chloride and the reaction mixture was stirred 30 min at room 22–25° C. The (N-Methyl-2-piperidinyl)methyl-1H-indole 228.3 mg (1.0 mmol) in 5 ml of methylene chloride was added by dropwise during 1.5 h and the mixture stirred 36 h. The reaction was work-up by addition of 20 ml 2M solution of sodium hydroxide and extracted by ethyl acetate (3×20 ml). The combined extract dried by sodium sulfate. After removing of solvents the rest (0.365 g) was purified by chromatography (silica gel, toluene-triethylamine, 10:1).

reactant | AlCl3 | 1.5 mmol, 200 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 3-quinolinecarbonyl chloride | 1.5 mmol, 287.4 mg | N1=CC(=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
reactant | (N-Methyl-2-piperidinyl)methyl-1H-indole | 1.0 mmol, 228.3 mg | CN1C(CCCC1)CN1C=CC2=CC=CC=C12 | C15H20N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-Methyl-2-piperidinyl)methyl-3-(3-quinolinecarbonyl)-1H-indole | CN1C(CCCC1)CN1C=C(C2=CC=CC=C12)C(=O)C=1C=NC2=CC=CC=C2C1 | C25H25N3O
